US06962914B2
To a cold (0° C.) solution of phosphorus oxychloride (8.0 mL, 86 mmol) in N,N-dimethylformamide (160 mL) was added 2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo-[1,5-a]pyridine (11.0 g, 39.3 mmol). The reaction mixture was stirred at room temperature for 72 hours, then quenched with ice water. The solid precipitate was collected on a filter to provide 2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde (11.4 g, 94%) as a white solid. Rf 0.45 (4:1 hexanes:ethyl acetate); 1H NMR (400 MHz, CDCl3) δ 10.15 (s, 1H), 8.92 (s, 1H), 8.53 (d, 1H), 7.80 (m, 2H), 7.70 (d, 1H), 7.27 (t, 2H); 19F NMR (CDCl3) δ −62.62, −110.62; MS m/z 307 (M−1).

reactant | phosphorus oxychloride | 86 mmol, 8.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo-[1,5-a]pyridine | 39.3 mmol, 11.0 g | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1 | C14H8F4N2
reactant | N,N-dimethylformamide | 160 mL | CN(C=O)C | C3H7NO
product | 2-(4-fluorophenyl)-6-(trifluoromethyl)pyrazolo[1,5-a]pyridine-3-carbaldehyde | 11.4 g, 94% | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C=O | C15H8F4N2O
